US05189041
m-Chloroperoxybenzoic acid (1.2 g, 7.0 mmol) was added in small portions at 0° C. to a solution of (S)-2-(1-azabicyclo[2.2.2]oct-3-yl)1,2-dihydro-5-methyl-1-oxopyrido[4,3-b]indole (1.8 g, 5.8 mmol), from Example 3, in dichloromethane (50 mL). The reaction mixture was stirred for additional 0.5 hour at 0° C. The solvent was removed under reduced pressure and the residue was purified by column chromatography (10% methanol in dichloromethane and 1% ammonium hydroxide) to afford 0.75 g (62% yield) of (S)-2-(1-azabicyclo[2.2.2]oct-3-yl)-1,2-dihydro-5-methyl-1-oxopyrido[4,3-b]indole N-oxide, as an amorphous solid, m.p 98°-102° C.

reactant | m-Chloroperoxybenzoic acid | 7.0 mmol, 1.2 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | (S)-2-(1-azabicyclo[2.2.2]oct-3-yl)1,2-dihydro-5-methyl-1-oxopyrido[4,3-b]indole | 5.8 mmol, 1.8 g | N12C[C@H](C(CC1)CC2)N2C(C1=C(N(C=3C=CC=CC13)C)C=C2)=O | C19H21N3O
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | (S)-2-(1-azabicyclo[2.2.2]oct-3-yl)-1,2-dihydro-5-methyl-1-oxopyrido[4,3-b]indole N-oxide | 0.75 g, 62% yield | N12CC(C(CC1)CC2)[N@@+]2(C(C1=C(N(C=3C=CC=CC13)C)C=C2)=O)[O-] | C19H21N3O2
